US08008279B2
6-(Trifluoromethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
To 4-piperidone.HCl (1.36 g, 10.0 mmol) and 2-trifluoromethylphenylhydrazine.HCl (2.13 g, 10.0 mmol) in acetic acid (50 mL) was added the 1.0 M borontrifluoride etherate (2.46 mL, 20.0 mmol) and the reaction stirred at 90° C. for 8 hours and then allowed to cool. The mixture was concentrated in vacuo and ethanol (ca 20 mL) added and then cooled to 0° C., the solid was filtered off and the mother liquor was concentrated in vacuo and water (adjusted to pH 14 with 2M NaOH) added to the residue. The solid was filtered off and washed with water and dried under high vacuum.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | HCl | 10.0 mmol, 1.36 g | Cl | ClH
reactant | 2-trifluoromethylphenylhydrazine | FC(C1=C(C=CC=C1)NN)(F)F | C7H7F3N2
reactant | HCl | 10.0 mmol, 2.13 g | Cl | ClH
reactant | borontrifluoride etherate | 20.0 mmol, 1.0 M, 2.46 mL | B(F)(F)F.CCOCC
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 6-(Trifluoromethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | FC(C1=CC=CC=2C3=C(NC12)CCNC3)(F)F | C12H11F3N2
